US07786132B2
3-Benzyl-1-{2-[4-(5-iodothiophen-2-yl)pyrimidin-2-ylamino]ethyl)-5,5-dimethylimidazolidine-2,4-dione
A suspension of 50 mg (0.11 mmol) of 1-{2-[4-(5-iodothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione, 22 mg (0.13 mmol) of sodium benzenesulfinate, 3 mg (0.0027 mmol) of Pd2dba3, 3.5 mg (0.00547 mmol) of Xantphos, 71 mg (0.22 mmol) of cesium carbonate, 34 mg (0.109 mmol) of N-benzyl-tri-n-butylammonium chloride and 0.22 mL of a 1 M solution of tBuOK in tBuOH in 3 mL of toluene was heated to 110° C. in a microwave for 10 min. The toluene was removed in vacuo and the residue purified by C-8 prep HPLC to deliver the title compound. MS (M+H)+ 548.

reactant | 1-{2-[4-(5-iodothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione | 0.11 mmol, 50 mg | IC1=CC=C(S1)C1=NC(=NC=C1)NCCN1C(NC(C1(C)C)=O)=O | C15H16IN5O2S
reactant | sodium benzenesulfinate | 0.13 mmol, 22 mg | C1(=CC=CC=C1)S(=O)[O-].[Na+]
reactant | Xantphos | 0.00547 mmol, 3.5 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.22 mmol, 71 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | tBuOK | C(C)(C)(C)O[K]
catalyst | N-benzyl-tri-n-butylammonium chloride | 0.109 mmol, 34 mg | [Cl-].C(C1=CC=CC=C1)[N+](CCCC)(CCCC)CCCC
solvent | tBuOH | CC(C)(C)O | C4H10O
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2dba3 | 0.0027 mmol, 3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 3-Benzyl-1-{2-[4-(5-iodothiophen-2-yl)pyrimidin-2-ylamino]ethyl)-5,5-dimethylimidazolidine-2,4-dione | C(C1=CC=CC=C1)N1C(N(C(C1=O)(C)C)CCNC1=NC=CC(=N1)C=1SC(=CC1)I)=O | C22H22IN5O2S
